US09428509B2
2,4-Dichloro-5-(pyridin-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine
To a degassed mixture of 2,4-dichloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv), pyridin-4-ylboronic acid (1.1 equiv) and tripotassium phosphate trihydrate (3 equiv) in a 9:1 mixture of 1,4-dioxane and water (0.33 M) was added palladium 1,1-bis(diphenylphosphino)-ferrocene dichloride (0.2 equiv). The reaction mixture was stirred at 100° C. for 2 h. After the reaction was complete, the reaction mixture was cooled to room temperature and concentrated. The residue was purified by silica gel chromatography (0-30% ethyl acetate in petroleum ether) to afford the desired product (40% yield) as a red solid. MS (ESI) m/z 395.1 [M+1]+.

reactant | 2,4-dichloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)Cl | C12H16Cl2IN3OSi
reactant | pyridin-4-ylboronic acid | 1.1 equiv | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | tripotassium phosphate trihydrate | 3 equiv | O.O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | 0.33 M | O | H2O
product | 2,4-Dichloro-5-(pyridin-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 40% yield | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=NC=C2)COCC[Si](C)(C)C)Cl | C17H20Cl2N4OSi
